US07279580B2
5-Fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile (0.99 g, 4.0 mmol) and 1,3-dibromo-5-fluorobenzene (1.52 g, 6.0 mmol) were suspended in 1,2-dimethoxyethane (8 ml) and 2N sodium carbonate solution (4 ml) and degassed for 30 min before addition of tetrakis(triphenylphosphine)palladium(0). On complete addition the mixture was heated at 65° C. for 20 h. The mixture was partitioned between ethyl acetate (100 ml) and water (50 ml), the organic layer separated and washed with brine (50 ml), dried over anhydrous sodium sulphate, filtered and evaporated onto silica. The product was purified by flash column chromatography on silica, eluting with isohexane on a gradient of diethyl ether (5-100%). Combination of the desired fractions and evaporation gave 3′-bromo-4,5′-difluorobiphenyl-2-carbonitrile (110 mg, 9%) as a white solid: δH (500 Mfz, CDCl3) 7.53-7.55 (1H, m), 7.67 (1H, s), 7.69-7.76 (3H, m), 8.03 (1H, dd, J 9 and 2).

reactant | 5-Fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile | 4.0 mmol, 0.99 g | FC=1C=CC(=C(C#N)C1)B1OC(C(O1)(C)C)(C)C | C13H15BFNO2
reactant | 1,3-dibromo-5-fluorobenzene | 6.0 mmol, 1.52 g | BrC1=CC(=CC(=C1)F)Br | C6H3Br2F
solvent | 1,2-dimethoxyethane | 8 ml | COCCOC | C4H10O2
product | 3′-bromo-4,5′-difluorobiphenyl-2-carbonitrile | 110 mg, 9% | BrC=1C=C(C=C(C1)F)C=1C(=CC(=CC1)F)C#N | C13H6BrF2N
